US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (120 mg) and 1,1-dimethylethyl 4-aminobenzoate (158 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-[4-(1,1-dimethylethyloxycarbonyl)phenyl]amino]carbonylbicyclo[2.2.2]oc t-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (20.1 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 120 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 1,1-dimethylethyl 4-aminobenzoate | 158 mg | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-[4-(1,1-dimethylethyloxycarbonyl)phenyl]amino]carbonylbicyclo[2.2.2]oc t-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 20.1 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC2=CC=C(C=C2)C(=O)OC(C)(C)C)=O)C#N | C27H35FN4O4
